US06930104B2
1-(4-Ethoxy-3-methoxybenzoyl)-2-methyl-4-(1,2,3,4-tetrahydroquinolin-1-yl)-1,2,3,4-tetrahydroquinoline
Starting with 1-(4-ethoxy-3-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol (600 mg, 1.76 mmol) prepared in Reference Example 19 and 1,2,3,4-tetrahydroquinoline (703 mg, 5.28 mmol), the same procedure as shown in Example 1 was repeated to give the titled compound (288 mg, yield: 36%) as a white crystal. (cis:trans=2:3)

reactant | 1-(4-ethoxy-3-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol | 1.76 mmol, 600 mg | C(C)OC1=C(C=C(C(=O)N2C(CC(C3=CC=CC=C23)O)C)C=C1)OC | C20H23NO4
reactant | 1,2,3,4-tetrahydroquinoline | 5.28 mmol, 703 mg | N1CCCC2=CC=CC=C12 | C9H11N
product | 1-(4-Ethoxy-3-methoxybenzoyl)-2-methyl-4-(1,2,3,4-tetrahydroquinolin-1-yl)-1,2,3,4-tetrahydroquinoline | 288 mg, yield: 36% | C(C)OC1=C(C=C(C(=O)N2C(CC(C3=CC=CC=C23)N2CCCC3=CC=CC=C23)C)C=C1)OC | C29H32N2O3
